US07304081B2
1′-{[1-(2,4-Dichlorophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 2,2,6,6-tetramethyl-piperidine, (1.18 mL, 0.00700 mol) in tetrahydrofuran (30 mL, 0.4 mol) at −78° C. was added n-butyllithium in hexane (2.5 M, 3.7 mL). After stirring for 15 min., a suspension of niacin (0.287 g, 0.00233 mol) in THF was added and the mixture was stired at −78° C. for 10 min. The reaction mixture was then warmed to −55° C. for 60 min. A solution of 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one (580 mg, 0.0019 mol) in THF (2 mL) was added to the above mixture and stirring was continued at −55 degrees celsius for 20 min. The reaction mixture was then allowed to warm to rt for 1 h and then acidified (pH˜1) using 6M HCl aq. solution. The reaction mixture was stirred at rt overnight and then neutralized (pH˜7). The product from the mixture was extracted with AcOEt. The organic extract was washed with brine, dried with MgSO4, and concentrated in-vauo. The crude product was purified by Combiflash followed by separation of the enantiomers using a chrial column. LCMS: m/z 402.0 & 404.0 (M+H)+.

reactant | 2,2,6,6-tetramethyl-piperidine | 0.00700 mol, 1.18 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | niacin | 0.00233 mol, 0.287 g | C1=CC(=CN=C1)C(=O)O | C6H5NO2
reactant | 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one | 0.0019 mol, 580 mg | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N1CC(CC1)=O | C14H13Cl2NO2
reactant | HCl | 6M | Cl | ClH
solvent | hexane | 2.5 M, 3.7 mL | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mol, 30 mL | O1CCCC1 | C4H8O
product | 1′-{[1-(2,4-Dichlorophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C20H16Cl2N2O3
